US03997535
a. 3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester
3,4-Dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester (1 g), 2-bromoethanol (1.15 g) and anhydrous potassium carbonate (3 g) were heated under reflux in butanone (100 ml) for 5 hours. The mixture was cooled and the solid was filtered off. The filtrate was evaporated to give an oil which was crystallised from a mixture of benzene and light petroleum (b.p. 60°-80°). It had m.p. 137°-138°.

reactant | 3,4-Dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | 1 g | O=C1C(=NC2=CC=CC=C2N1)C(=O)OCC | C11H10N2O3
reactant | 2-bromoethanol | 1.15 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 3,4-Dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | OCCN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C13H14N2O4
